US05811459
A solution of methyl 4-[2-(3-hydroxy-2-pyridyl)ethyl]benzoate (1.1 g, 4.3 mmol) in DMF (30 ml) was treated with benzyl bromide (0.89 g, 5.2 mmol) and potassium carbonate (0.72 g, 5.2 mmol). The reaction was stirred at ambient temperature overnight and then, partitioned between EtOAc/water. The organic phase was washed well with water, dried (MgSO4) and evaporated. The residue was purified by chromatography (SiO2) eluting with CH2Cl2 /EtOAc to give methyl 4-[2-(3-benzyloxy-2-pyridyl)ethyl]benzoate (0.94 g, 53%) as a low melting yellow solid.

reactant | methyl 4-[2-(3-hydroxy-2-pyridyl)ethyl]benzoate | 4.3 mmol, 1.1 g | OC=1C(=NC=CC1)CCC1=CC=C(C(=O)OC)C=C1 | C15H15NO3
reactant | benzyl bromide | 5.2 mmol, 0.89 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 5.2 mmol, 0.72 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl 4-[2-(3-benzyloxy-2-pyridyl)ethyl]benzoate | 0.94 g, 53% | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CCC1=CC=C(C(=O)OC)C=C1 | C22H21NO3
